US07074809B2
2-[5-(3-Cyano-5-methoxy-phenyl)-[1,2,4]oxadiazol-3-yl]-piperidine-1-carboxylic acid tert-butyl ester
DMF (2.0 mL) was added to a mixture of cyano-5-methoxybenzoic acid (160 mg, 0.90 mmol), EDCI (176 mg, 0.92 mmol), HOBt (124.3 mg, 0.92 mmol) and 2-(N-hydroxycarbamimidoyl)-piperidine-1-carboxylic acid tert-butyl ester (224 mg, 0.92 mmol) at room temperature and stirred overnight. The reaction mixture was diluted with ethyl acetate, washed with water (3 times) and brine, dried anhydrous sodium sulfate, filtered and concentrated. DMF (3 mL) was added to the residue and then heated 135° C. for 2.5 h to effect cyclization to oxadiazole. The reaction mixture was diluted with ethyl acetate, washed with water (3 times) and brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Purification by flash chromatography on silica gel, eluted with a mixture of ethyl acetate in hexanes afforded 179 mg (56%) of the title compound as a colorless oil. 1H NMR (CDCl3), δ(ppm): 7.99 (s, 1H), 7.84 (d, 1H), 7.35 (s, 1H), 5.56 (bs, 1H), 4.06 (m, 1H), 3.93 (s, 3H), 3.01 (m, 1H), 2.84 (m, 1H), 1.92 (m, 1H), 1.70 (m, 2H), 1.49 (m, 11H).

reactant | cyano-5-methoxybenzoic acid | 0.90 mmol, 160 mg | C(#N)C1=C(C(=O)O)C=C(C=C1)OC | C9H7NO3
reactant | EDCI | 0.92 mmol, 176 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.92 mmol, 124.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-(N-hydroxycarbamimidoyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.92 mmol, 224 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)C(NO)=N | C11H21N3O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 2-[5-(3-Cyano-5-methoxy-phenyl)-[1,2,4]oxadiazol-3-yl]-piperidine-1-carboxylic acid tert-butyl ester | 179 mg, 56% | C(C)(C)(C)OC(=O)N1C(CCCC1)C1=NOC(=N1)C1=CC(=CC(=C1)OC)C#N | C20H24N4O4
